US08802690B2
Crude 5-nitro-2-(piperidin-1-ylcarbonyl)pyridine was reduced by hydrogen under atmospheric pressure in the presence of 10% paladium on carbon (4 g) in acetic acid (500 mL). The catalyst was separated by filtration and the solvent evaporated in vacuum to give crude 6-(piperidin-1-ylcarbonyl)pyridin-3-amine, which was used for the next stage without additional purification.

reactant | 5-nitro-2-(piperidin-1-ylcarbonyl)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)C(=O)N1CCCCC1 | C11H13N3O3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | 6-(piperidin-1-ylcarbonyl)pyridin-3-amine | N1(CCCCC1)C(=O)C1=CC=C(C=N1)N | C11H15N3O
